### PR TITLE
Add Erdős Problem 843 (squares are Ramsey 2-complete), link the formal proof

### LINKED ISSUE #6372: Erdős Problem 843
### What is the Erdős problem?

https://www.erdosproblems.com/843

Are the squares Ramsey $2$-complete? That is, is it true that, in any 2-colouring of the square numbers, every sufficiently large $n\in \mathbb{N}$ can be written as a monochromatic sum of distinct squares?

Status: proved (Burr, unpublished; Conlon–Fox–Pham [CFP21]). A formal proof exists in plby/lean-proofs (`Erdos843.erdos_843`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6372.

Based on #6294 (Erdős 54), whose `Erdos54.IsRamseyComplete` is reused; only `843.lean` is new in this PR.

### What changed
Adds `FormalConjectures/ErdosProblems/843.lean`:
- `erdos_843` (`research solved`, `answer(True)`): the squares are Ramsey 2-complete (Burr; Conlon–Fox–Pham). Linked to plby/lean-proofs `Erdos843.erdos_843` (Codex and GPT-5.6 Sol; 13 Mathlib-only files).
- Sorry'd variant: `k`-th powers are Ramsey `r`-complete for all `r, k ≥ 2`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos843.erdos_843` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby colours all of `ℕ`; the bridge extends a colouring of the squares and transports the monochromatic finset):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge843

theorem erdos_843_bridge : type_of% Erdos843.erdos_843 := by
  show True ↔ _
  simp only [true_iff]
  set A : Set ℕ := {n : ℕ | ∃ m, 0 < m ∧ n = m ^ 2} with hA
  intro c
  classical
  -- extend the colouring to all of `ℕ`
  let colour : ℕ → Fin 2 := fun n => if h : n ∈ A then c ⟨n, h⟩ else 0
  obtain ⟨N, hN⟩ := Erdos843Plby.erdos_843 colour
  rw [eventually_atTop]
  refine ⟨N, fun n hn => ?_⟩
  obtain ⟨squares, hsq, ⟨i, hi⟩, hsum⟩ := hN n hn
  have hmem : ∀ q ∈ squares, q ∈ A := fun q hq => hsq q hq
  let e : {q // q ∈ squares} ↪ A :=
    ⟨fun q => ⟨q.1, hmem q.1 q.2⟩, fun q₁ q₂ h => Subtype.ext (congrArg Subtype.val h :)⟩
  refine ⟨squares.attach.map e, ⟨i, ?_⟩, ?_⟩
  · intro a ha
    obtain ⟨q, -, rfl⟩ := Finset.mem_map.1 ha
    have := hi q.1 q.2
    simp only [colour, dif_pos (hmem q.1 q.2)] at this
    exact this
  · rw [Finset.sum_map]
    change ∑ q ∈ squares.attach, (q.1 : ℕ) = n
    rw [Finset.sum_attach squares (fun q => q)]
    exact hsum

#print axioms Erdos843Plby.erdos_843
#print axioms erdos_843_bridge

end Bridge843
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«843»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/843.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+module
+
+public import FormalConjecturesUtil
+public import FormalConjectures.ErdosProblems.«54»
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/843.lean:19]: instead of depending on [#6294](https://github.com/google-deepmind/formal-conjectures/pull/6294) and reuses Erdos54.IsRamseyComplete via a problem-file import, let's move this for FormalConjecturesForMathlib
